data/specific_train_final.csv
"[CH3:10][CH:9]([CH3:11])[CH:7]([CH2:6][O:5][O:4][O:3][N+:2](=[O:1])[O-:12])[OH:8]>>[CH3:10][CH:9]([CH3:11])[CH:7]([CH2:6][O:5][O:4][O:3])[OH:8].[N+:2](=[O:1])[O-:12] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C(=CC=C1)C)CC.[OH:10]>>[H:20][OH:10].CCC1=C(C=CC=C1C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)OC(C)(C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CC(=O)OC(C)(C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CC[CH:10]COC(=O)C.[O:20][O]>>CC[CH:10](COC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C[C:10](C(C(=C1)C)O)C.[O:20][O]>>CC1=CC(=C[C:10](C1O)(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=CC=C1)COO[O:20][N+:21](=O)[O-]>>CC1=CC(=CC=C1)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C(C=O)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)(C(COO)O)[O:20][O:21]N=O>>CC(CO)(C(COO)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10]1C=CC2C(C1(OO2)C)O.[O:20][O]>>C[C:10]1(C=CC2C(C1(OO2)C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][C:3]([CH2:10][O:11][O:12][N:13]=[O:14])([CH:4]([CH:7]=[O:8])[O:5][OH:6])[O:2][OH:1]>>[CH3:9][C:3]([CH2:10][O:11])([CH:4]([CH:7]=[O:8])[O:5][OH:6])[O:2][OH:1].[N:13](=[O:14])[O:12] 11,12-11; 11,12-12",Room Temperature,Initiation,homolyze
"[H:10][O:9][O:8][O:7].[CH3:5][CH2:4][CH2:3][C:2](=[O:6])[O:1]>>[H:10][O:9].[CH3:5][CH2:4][CH2:3][C:2](=[O:6])[O:1].[O:7][O:8] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"CC1(C2CC[C:21](=[CH2:20])C1C2)C.[N+](=O)([O-])[O:10]>>CC1(C2CC[C:21](C1C2)[CH2:20][O:10][N+](=O)[O-])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCC(C)CC(C)O[O:10]>>[H:20][O:10]OC(C)CC(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:20]1(C=CC2C([CH:21]1O)O2)[O:10]>>CC[C:20](=[O:10])C=CC1C(O1)[CH:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C[O:20][O:21]N=O)(C=O)O>>CC(C[O:20])(C=O)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21]N=O)(Cl)Cl)(Cl)Cl>>C(C([O:20])(Cl)Cl)(Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C[O:21][O:20][O])O[N+](=O)[O-]>>CCC(C[O:21])O[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(COC(=O)C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CCC(COC(=O)C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(CO)[O:20][O:21]N=O>>CC(C)C(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(OC=O)[O:20][O:21]N=O>>C([O:20])OC=O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(=O)OCO[O:20].[N+](=O)([O-])[O:10]>>COC(=O)OCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:11][C:3]([CH2:4][O:5][N+:6](=[O:8])[O-:7])([CH:2]([CH:12][O:13][OH:14])[OH:1])[O:9][OH:10]>>[CH3:11][C:3]([CH2:4][O:5][N+:6](=[O:8])[O-:7])([CH:2]([CH:12]=[O:13])[OH:1])[O:9][OH:10].[OH:14] 12-12,13; 13,14-12,13; 13,14-14",Room Temperature,Propagation,retroaddition
"CC(COC[O:21][O:20][O])O.[N+](=O)[O-]>>CC(COC[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCOC(C(C)O)[O:20][O:21][O].[N+](=O)[O-]>>CCCCOC(C(C)O)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCC(OCCO)O[O:10]>>[H:20][O:10]OC(CCC)OCCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21]O[O].CCCC(=O)[O:10]>>[H:20][O:10]C(=O)CCC.[O:21]O[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:15][O:14][O:13][CH2:12][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11]>>[H:15][O:11][O:10][CH:9]([CH2:12][O:13][O:14])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8] 14,15-14; 11-11,15; 14,15-11,15",Room Temperature,Propagation,abstraction
"CCCCCCCCCC(CC)[O:20][O:21][O]>>CCCCCCCCCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)(C(CO)O[N+](=O)[O-])[O:20][O:21]N=O>>CC(CO)(C(CO)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:7][CH2:6][CH:5]([CH:8]([CH3:10])[OH:9])[O:4].[N:2](=[O:3])[O:1]>>[CH3:7][CH2:6][CH:5]([CH:8]([CH3:10])[OH:9])[O:4].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:20][C:21]1(C=CC(=C[C:22]1C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=C[C:22](=[C:21](C=C1)O)C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
CC(OC([O])CCC)=O.[O:21][N:10]=O>>CC(OC([O])CCC)=O.[O-:21][N+:10]=O 10-21,Room Temperature,Propagation,ha resonance
